US04140692
Angewandte Chemie, 36 (1923), 159, and Berichte der deutschen Chemischen Gesellschaft, 58 (1925), 2,095, disclose the reaction of thionaphthene-2,3-dione with ammonia and hydrogen peroxide to give 3-carbamyl-1,2-benzisothiazole and the conversion of the latter to 1,2-benzisothiazole by hydrolysis and decarboxylation. Berichte der deutschen Chemischen Gesellschaft, 56 (1923), 1,630, and Liebigs Annalen der Chemie, 454 (1927), 264, disclose the reaction of 2-formyl-4-nitrophenylsulfenyl bromide with ammonia to give 5-nitro-1,2-benzisothiazole. Benzisothiazoles can also be synthesized by cyclizing o-mercapto-phenyl-carbonyl compounds in the presence of polyphosphoric acid (Annali di Chimica, 53 (1963), No. 5, 577-587). German Laid-Open Application DOS No. 1,670,196 discloses the reaction of dihalomethylaryl compounds with ammonia and sulfur to give benzisothiazoles.

reactant | 1,2-benzisothiazole | S1N=CC2=C1C=CC=C2 | C7H5NS
reactant | 2-formyl-4-nitrophenylsulfenyl bromide | C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])SBr | C7H4BrNO3S
reactant | ammonia | N | H3N
product | 5-nitro-1,2-benzisothiazole | [N+](=O)([O-])C=1C=CC2=C(C=NS2)C1 | C7H4N2O2S
